US05824661
II. Synthesis of [2-mercapto-5-(3-aminophenyl)pentylidene]-bis[phosphonic acid]
[2-Mercapto-5-(3-nitrophenyl)pentylidene]bis[phosphonic acid] (0.25 mmol), distilled water (75 ml) and PtO2 (0.20 mg) are placed in a 500 ml Parr hydrogenation bottle. The mixture is hydrogenated at room temperature (40 psi) for 6 hours. The solution is filtered through celite and concentrated under reduced pressure. The resultant solid is triturated in acetone and then further dried overnight in a vacuum desiccator.

reactant | [2-Mercapto-5-(3-nitrophenyl)pentylidene]bis[phosphonic acid] | 0.25 mmol | SC(C(P(O)(O)=O)P(O)(O)=O)CCCC1=CC(=CC=C1)[N+](=O)[O-] | C11H17NO8P2S
catalyst | PtO2 | 0.20 mg | O=[Pt]=O
solvent | water | 75 ml | O | H2O
product | [2-mercapto-5-(3-aminophenyl)pentylidene]-bis[phosphonic acid] | SC(C(P(O)(O)=O)P(O)(O)=O)CCCC1=CC(=CC=C1)N | C11H19NO6P2S
